US07148229B2
A mixture of 6-amino-3-(2-fluoro-benzyl)-1H-pyrimidine-2,4-dione (2.4 g, 10.6 mmol) in a 1.0N aqueous hydrochloric acid solution at 25° C. was treated with a solution of sodium nitrite (0.95 g, 13.78 mmol) in water (10 mL). The mixture was stirred at 25° C. for 3 h. At this time, the reaction was brought to pH=5 through treatment with a 1.0N aqueous ammonium hydroxide solution. The resulting solid was collected by filtration and washed with cold water to afford 6-amino-3-(2-fluoro-benzyl)-5-nitroso-1H-pyrimidine-2,4-dione (2.58 g, 92%); LRMS for C11H9FN4O3 (M+H)+ at m/z=265.

reactant | 6-amino-3-(2-fluoro-benzyl)-1H-pyrimidine-2,4-dione | 10.6 mmol, 2.4 g | NC1=CC(N(C(N1)=O)CC1=C(C=CC=C1)F)=O | C11H10FN3O2
reactant | hydrochloric acid | 1.0N | Cl | ClH
reactant | sodium nitrite | 13.78 mmol, 0.95 g | N(=O)[O-].[Na+]
reactant | ammonium hydroxide | 1.0N | [OH-].[NH4+]
solvent | water | 10 mL | O | H2O
product | 6-amino-3-(2-fluoro-benzyl)-5-nitroso-1H-pyrimidine-2,4-dione | 2.58 g, 92% | NC1=C(C(N(C(N1)=O)CC1=C(C=CC=C1)F)=O)N=O | C11H9FN4O3
